US04962200
In 10 ml of ethanol was dissolved 2.0 g (11.5 millimoles) of 1,2-dihydro-2,2,4-trimethylquinoline, and 0.4 g of 10% Pd-C was added to the solution and reaction was carried out at 60° C. in a hydrogen atmosphere for 7 hours. The catalyst was removed by filtration and the filtrate was concentrated under reduced pressure to obtain 1.8 g (the yield was 89%) of 2,2,4-trimethyl-1,2,3,4-tetrahydroquinoline in the form of a light-brown oil. To 0.5 g (3.7 millimoles) of 4-hydroxymethylimidazole hydrochloride was added 3 ml of thionyl chloride and reaction was carried out at 50° C. for 2 hours. The excess of thionyl chloride was removed by distillation under reduced pressure. The residue was dissolved in 10 ml of DMF and a solution of 1.1 g (6.3 millimoles) of 2,2,4-trimethyl-1,2,3,4-tetrahydroquinoline in 5 ml of DMF was added to the above solution at 100° C. Reaction was carried out for 1 hour. DMF was removed from the reaction mixture by distillation under reduced pressure. An aqueous solution of sodium hydrogen-carbonate was added to the residue and the mixture was extracted with dichloromethane. The organic layer was dried with anhydrous sodium sulfate and concentrated under reduced pressure to obtain a light-green oil. The oil was purified by the silica gel column chromatography (developing solvent; ethyl acetate) to obtain 0.35 g (the yield was 39%) of 4-[1-(2,2,4-trimethyl-1,2,3,4-tetrahydroquinolyl)methyl]imidazole in the form of a colorless crystal. Reaction was carried out in the same manner as described in Example 3 by using 4-[1-(2,2,4-trimethyl-1,2,3,4-tetrahydroquinolyl)methyl]imidazole to obtain 0.35 g (the yield was 30%) of intended compound No. 8 in the form of a light-brown oil.

reactant | 1,2-dihydro-2,2,4-trimethylquinoline | 11.5 millimoles, 2.0 g | CC1(NC2=CC=CC=C2C(=C1)C)C | C12H15N
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | Pd-C | 0.4 g | [Pd] | Pd
product | 2,2,4-trimethyl-1,2,3,4-tetrahydroquinoline | yield was 89% | CC1(NC2=CC=CC=C2C(C1)C)C | C12H17N
